US05977116
Ethyl 3-pyridylacetate (12.2 g, 73.9 mmol) in THF (30 ml) was added to LDA (81 mmol) in THF (150 ml) over 10 min at -78° C. After 1 h Mel (5.1 ml, 81 mmol) was added to the yellow suspension and the mixture brought to room temperature. H2O (300 ml) and ether (300 ml) was added, the mixture separated, and the organic layer washed with H2O and brine, dried and evaporated to give ethyl 2-(3-pyridyl)propanoate (8.3 g) as a yellow oil.

reactant | Ethyl 3-pyridylacetate | 73.9 mmol, 12.2 g | N1=CC(=CC=C1)CC(=O)OCC | C9H11NO2
reactant | LDA | 81 mmol | [Li+].CC(C)[N-]C(C)C
reactant | H2O | 300 ml | O | H2O
reactant | ether | 300 ml | CCOCC | C4H10O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | ethyl 2-(3-pyridyl)propanoate | 8.3 g | N1=CC(=CC=C1)C(C(=O)OCC)C | C10H13NO2
